US04271164
A suspension of 3.0 g of 6-(2,6-dichlorophenyl)-2-methylpyrido[2,3-d]pyrimidin-7-amine and 50 ml of 1,2-dichloroethane is boiled on a steam bath until the distilling vapors reach a temperature of 83° C. The suspension is cooled to room temperature and 1.6 g of chloroacetic acid and 2.6 g of carbonyldiimidazole are added sequentially. The mixture is stirred at room temperature for 3 hours and the resulting solution is immediately chromatographed over 150 g of silica gel. The crude product is eluted with a 99/1 chloroform/methanol mixture. Trituration of this with ether gives pure 2-chloro-N-[6-(2,6-dichlorophenyl)-2-methylpyrido[2,3-d]-pyrimidin-7-yl]acetamide, decomposing above ca 170° C.

reactant | 6-(2,6-dichlorophenyl)-2-methylpyrido[2,3-d]pyrimidin-7-amine | 3.0 g | ClC1=C(C(=CC=C1)Cl)C1=CC2=C(N=C(N=C2)C)N=C1N | C14H10Cl2N4
reactant | chloroacetic acid | 1.6 g | ClCC(=O)O | C2H3ClO2
reactant | carbonyldiimidazole | 2.6 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
product | 2-chloro-N-[6-(2,6-dichlorophenyl)-2-methylpyrido[2,3-d]-pyrimidin-7-yl]acetamide | ClCC(=O)NC=1C(=CC2=C(N=C(N=C2)C)N1)C1=C(C=CC=C1Cl)Cl | C16H11Cl3N4O
